US07776897B2
3-(1-Piperidin-4-ylcyclopentyl)-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (263 mg) and 1H-triazole-1-methanol (86 mg) were diluted with methanol (4 ml), followed by stirring at 60° C. for 1 hour. After 1H-triazole-1-methanol (93 mg) was added thereto and the whole was stirred for 1 hour, 1H-triazole-1-methanol (107 mg) was further added and the whole was stirred for 1 hour. The reaction solution was cooled to room temperature and then sodium borohydride (91 mg) was added thereto, followed by stirring at room temperature for 16 hours. The reaction solution was subjected to evaporation under reduced pressure and the resulting residue was diluted with a 1M aqueous sodium hydroxide solution (30 ml), followed by extraction with chloroform (15 ml×2). The organic layer was dried over anhydrous sodium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography (methanol:chloroform=1:6) and then the resulting solid washed with hexane to obtain 105 mg of 3-[1-(1-methyl-4-piperidinyl)cyclopentyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (white solid).

reactant | 3-(1-Piperidin-4-ylcyclopentyl)-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 263 mg | N1CCC(CC1)C1(CCCC1)C1=NN=C2N1CCCCCC2 | C18H30N4
reactant | 1H-triazole-1-methanol | 86 mg | N1(N=NC=C1)CO | C3H5N3O
reactant | 1H-triazole-1-methanol | 93 mg | N1(N=NC=C1)CO | C3H5N3O
reactant | 1H-triazole-1-methanol | 107 mg | N1(N=NC=C1)CO | C3H5N3O
reactant | sodium borohydride | 91 mg | [BH4-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 3-[1-(1-methyl-4-piperidinyl)cyclopentyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 105 mg | CN1CCC(CC1)C1(CCCC1)C1=NN=C2N1CCCCCC2 | C19H32N4
